US07868018B2
Step D: Preparation of N-{3-[2-(3-tert-butyl-ureido)-[1,6]naphthyridin-3-yl]-2,4-dichloro-phenyl}-3-trifluoromethyl-benzamide
To a solution of N-[3-(2-amino-quinolin-3-yl)-2,4-dichloro-phenyl]-3-trifluoromethyl-benzamide (100.0 mg, 0.210 mmol) in DMF (4.0 mL) is added NaH (60%, 10.9 mg, 0.273 mmol) at room temperature. After the mixture is stirred for 30 minutes at room temperature, tert-butyl isocyanate (24.9 mg, 0.252 mmol) is added and the mixture is stirred 6 hours. The reaction mixture is diluted with EtOAc and washed with saturated K2CO3, brine and water. The organic layer is dried, filtered and concentrated to give crude product, which is purified by flash silica gel column eluting with CH2Cl2 (100%) gradient to CH2Cl2/MeOH(NH3, 2N) (95/5) to give the final product as a solid: 1H NMR 400 MHz (CDCl3) δ 9.97 (s, 1H), 9.56 (s, 1H), 8.80 (m, 2H), 8.44 (s, 1H), 8.26 (s, 1H), 8.24 (s, 1H), 8.12 (d, 1H), 7.94 (m, 2H), 7.37 (t, 1H), 7.67 (d, 1H); MS m/z 577.70 (M+1).

reactant | N-[3-(2-amino-quinolin-3-yl)-2,4-dichloro-phenyl]-3-trifluoromethyl-benzamide | 0.210 mmol, 100.0 mg | NC1=NC2=CC=CC=C2C=C1C=1C(=C(C=CC1Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl | C23H14Cl2F3N3O
reactant | NaH | 0.273 mmol, 10.9 mg | [H-].[Na+]
reactant | tert-butyl isocyanate | 0.252 mmol, 24.9 mg | C(C)(C)(C)N=C=O | C5H9NO
reactant | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{3-[2-(3-tert-butyl-ureido)-[1,6]naphthyridin-3-yl]-2,4-dichloro-phenyl}-3-trifluoromethyl-benzamide | C(C)(C)(C)NC(NC1=NC2=CC=NC=C2C=C1C=1C(=C(C=CC1Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl)=O | C27H22Cl2F3N5O2
